US09062070B2
To a solution of 1-bromo-4-fluoro-2-methoxybenzene (25 g, 0.12 mol) in 250 mL of DMF was added Zn(CN)2 (28.6 g, 0.240 mol) and Pd(PPh3)4 (7.05 g, 6.10 mmol) at one portion and the reaction was charged with Ar and heated to 100° C. for 10 hours. Then the reaction was poured into 1 L of EtOAc and filtered through a kieselguhr pad. The filtrate was washed with water, brine, dried and concentrated to solid, which was purified by silica gel column to give 4-fluoro-2-methoxybenzonitrile.

reactant | 1-bromo-4-fluoro-2-methoxybenzene | 0.12 mol, 25 g | BrC1=C(C=C(C=C1)F)OC | C7H6BrFO
reactant | EtOAc | 1 L | CCOC(=O)C | C4H8O2
reactant | DMF | 250 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.240 mol, 28.6 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 6.10 mmol, 7.05 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-fluoro-2-methoxybenzonitrile | FC1=CC(=C(C#N)C=C1)OC | C8H6FNO
